US05084466
920 mg of N-[p-(2-aminoethyl)phenyl]glycine methyl ester sulphate were reacted in analogy to Example 3 with 4-cyanobenzoyl chloride to give N-[p-[2-(p-cyanobenzamido) ethyl]phenyl]glycine methyl ester, melting point 161°-162° C. (from toluene).

reactant | N-[p-(2-aminoethyl)phenyl]glycine methyl ester sulphate | 920 mg | S(=O)(=O)(O)O.COC(CNC1=CC=C(C=C1)CCN)=O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[p-[2-(p-cyanobenzamido) ethyl]phenyl]glycine methyl ester | COC(CNC1=CC=C(C=C1)CCNC(C1=CC=C(C=C1)C#N)=O)=O | C19H19N3O3
